US06353111B1
A solution of (E)-2-(4-(methanesulfonyl)-phenyl)-4-methyl-pentenoic acid methyl ester (1.83 g, 6.48 mmol) in ethanol (35 mL) was treated with a 1N aqueous sodium hydroxide solution (15 mL). The solution was heated at 45-50° C. for 15 h, at which time, thin layer chromatography analysis of the reaction mixture indicated the absence of starting material. The reaction mixture was concentrated in vacuo to remove ethanol. The residue was diluted with water (50 mL) and extracted with diethyl ether (1×50 mL) to remove any neutral impurities. The aqueous layer was then acidified with a 1N aqueous hydrochloric acid solution, and the resulting acid was extracted into ethyl acetate (2×70 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford (E)-2-(4-(methanesulfonyl)-phenyl)-4-methyl-pentenoic acid (1.6 g, 92%) as a white solid: mp 179-182° C.; EI-HRMS m/e calcd for C13H16O4S (M+H)+269.0847, found 269.0858.

reactant | (E)-2-(4-(methanesulfonyl)-phenyl)-4-methyl-pentenoic acid methyl ester | 6.48 mmol, 1.83 g | COC(\C(=C\C(C)C)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C14H18O4S
reactant | sodium hydroxide | 1N, 15 mL | [OH-].[Na+]
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | (E)-2-(4-(methanesulfonyl)-phenyl)-4-methyl-pentenoic acid | 1.6 g, 92% | CS(=O)(=O)C1=CC=C(C=C1)/C(/C(=O)O)=C\C(C)C | C13H16O4S
